US06743785B2
7-vinylindole
To a solution of methyl triphenylphosphonium bromide (5.05 g, 14.1 mmol) in tetrahydrofuran (80 mL) was added potassium tert-butoxide (1 M in tetrahydrofuran, 14.1 mL, 14.1 mmol) and the reaction stirred for 45 minutes at room temperature. Next a prepared solution of 7-formylindole (1.00 g, 6.89 mmol) in tetrahydrofuran (10 mL) was added and the reaction stirred for 1.5 hours. The reaction mixture was diluted with ethyl acetate (250 mL) and washed with an 8:1 mixture of water and 1 N hydrochloric acid (2×100 mL), saturated aqueous sodium chloride (100 mL), and dried over sodium sulfate. The solution was filtered and the filtrate concentrated under reduced pressure. The residue was subjected to silica gel chromatography. Fractions containing product were combined and concentrated under reduced pressure to provide the desired compound as a brown oil.

reactant | potassium tert-butoxide | 14.1 mmol, 1 M, 14.1 mL | CC(C)([O-])C.[K+]
reactant | 7-formylindole | 6.89 mmol, 1.00 g | C(=O)C=1C=CC=C2C=CNC12 | C9H7NO
catalyst | methyl triphenylphosphonium bromide | 14.1 mmol, 5.05 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 7-vinylindole | C(=C)C=1C=CC=C2C=CNC12 | C10H9N
